US08809371B2
Calcium carbonate (138 mg) and D-leucinamide•hydrochloride (83 mg) were added to a 1,4-dioxane (1 ml) solution containing 6-chloro-5-fluoro-2-(quinolin-6-ylamino)nicotinonitrile (30 mg), followed by reflux for 15 hours. The reaction mixture was cooled to room temperature, and water, sodium chloride, and ethyl acetate were added. The organic layer was collected and dried over anhydrous magnesium sulfate, and the solvent was distilled away under reduced pressure. Diisopropylether was added to the obtained residue, solid matter was collected by filtration, and a yellow solid of (2R)-2-(5-cyano-3-fluoro-6-(quinolin-6-ylamino)pyridin-2-ylamino)-4-methylpentanamide (33 mg) was thus obtained.

reactant | Calcium carbonate | 138 mg | C([O-])([O-])=O.[Ca+2]
reactant | D-leucinamide•hydrochloride | 83 mg | N[C@H](CC(C)C)C(=O)N.Cl
reactant | 6-chloro-5-fluoro-2-(quinolin-6-ylamino)nicotinonitrile | 30 mg | ClC1=NC(=C(C#N)C=C1F)NC=1C=C2C=CC=NC2=CC1 | C15H8ClFN4
reactant | sodium chloride | [Cl-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | 1,4-dioxane | 1 ml | O1CCOCC1 | C4H8O2
product | (2R)-2-(5-cyano-3-fluoro-6-(quinolin-6-ylamino)pyridin-2-ylamino)-4-methylpentanamide | 33 mg | C(#N)C=1C=C(C(=NC1NC=1C=C2C=CC=NC2=CC1)N[C@@H](C(=O)N)CC(C)C)F | C21H21FN6O
